US07368578B2
A mixture of (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoic acid (0.30 g), 1-hydroxybenzotriazole ammonia complex (0.17 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.22 g) and N,N-dimethylformamide (15 mL) was stirred at room temperature for 15 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenamide as colorless crystals (0.25 g, yield 83%). Recrystallization from tetrahydrofuran-hexane gave colorless prism crystals. melting point: 187-188° C.

reactant | (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoic acid | 0.30 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C(=O)O)C2=CC=CC=C2)C=C1)OC)C | C29H25N3O7
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.22 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenamide | 0.25 g, yield 83% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C(=O)N)C2=CC=CC=C2)C=C1)OC)C | C29H26N4O6
